US04539321
The Preparation of 3-Acetamido-5-(4-Pyrimidinyl)-2-(1H)-Pyridone
2.5 ml of acetic anhydride are added to a suspension of 4.0 g of 3-amino-5-(4-pyrimidinyl)-2-(1H)-pyridone in 60 ml of pyridine. The mixture is heated on a steam bath for 2 hours and then cooled in an ice bath. The solid is filtered, washed with ethanol and dried. Recrystallization from dimethyl formamide yields the desired product, M.P.>250° C.

reactant | acetic anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-amino-5-(4-pyrimidinyl)-2-(1H)-pyridone | 4.0 g | NC=1C(NC=C(C1)C1=NC=NC=C1)=O | C9H8N4O
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 3-Acetamido-5-(4-Pyrimidinyl)-2-(1H)-Pyridone | C(C)(=O)NC=1C(NC=C(C1)C1=NC=NC=C1)=O | C11H10N4O2
